US08334295B2
To a stirred solution of 6-chloro-1-ethyl-5-isopropyl-1H-pyrimidine-2,4-dione (11.5 g, 53 mmol) in DMF (100 mL) in a water bath, was added 60% NaH (3.18 g, 79.6 mmol). After stirring for 40 min., technical grade chloromethyl methyl ether (7.6 mL, 80 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane (1:5)) to give 12.6 g (91%) of 6-chloro-1-ethyl-5-isopropyl-3-methoxymethyl-1H-pyrimidine-2,4-dione as a colorless oil. H-NMR (200 MHz, CDCl3) δ 1.26-1.34 (9H, m), 3.24 (1H, m), 3.44 (3H, s), 4.16 (2H, q, J=7.0 Hz), 5.35 (2H, s); m/z (EI) 260 (M+).

reactant | 6-chloro-1-ethyl-5-isopropyl-1H-pyrimidine-2,4-dione | 53 mmol, 11.5 g | ClC1=C(C(NC(N1CC)=O)=O)C(C)C | C9H13ClN2O2
reactant | NaH | 79.6 mmol, 3.18 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 80 mmol, 7.6 mL | COCCl | C2H5ClO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-chloro-1-ethyl-5-isopropyl-3-methoxymethyl-1H-pyrimidine-2,4-dione | 12.6 g, 91% | ClC1=C(C(N(C(N1CC)=O)COC)=O)C(C)C | C11H17ClN2O3
